US06531495B1
From 3 g (8.4 mmol) of 2′-phthalimidomethylbiphenyl-2-carboxylic acid (precursor 2), by reaction with isopentylamine in the presence of HOBT and DIC, 3.2 g of 2′-phthalimidomethylbiphenyl-2-carboxylic acid isopentylamide were obtained; m.p. 169° C. The product was dissolved in 100 ml of methanol and treated with 5 ml of hydrazine hydrate. After stirring at 40° C. for 1 h, the cooled reaction mixture was filtered. The filtrate was concentrated and the residue was taken up in methylene chloride. After washing with water, drying and concentrating, 1.8 g of 2′-amino-methylbiphenyl-2-carboxylic acid isopentylamide were obtained.

reactant | 2′-phthalimidomethylbiphenyl-2-carboxylic acid | 8.4 mmol, 3 g | C1(C=2C(C(N1CC1=C(C=CC=C1)C=1C(=CC=CC1)C(=O)O)=O)=CC=CC2)=O | C22H15NO4
reactant | isopentylamine | C(CC(C)C)N | C5H13N
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIC | CC(N=C=NC(C)C)C | C7H14N2
product | 2′-phthalimidomethylbiphenyl-2-carboxylic acid isopentylamide | 3.2 g | C(CC(C)C)NC(=O)C=1C(=CC=CC1)C1=C(C=CC=C1)CN1C(C=2C(C1=O)=CC=CC2)=O | C27H26N2O3
